US05126337
7-((S)-3-Amino-1-pyrrolidinyl)-8-chloro-6-fluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylic acid
A mixture of 1.90 g of ethyl 8-chloro-6-fluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]-thiazeto[3,2-a]quinoline-3-carboxylate, 1.23 g of 85% potassium hydroxide, 6.0 ml of tert-butanol and 12 ml of water was stirred at room temperature for 5 hours. The reaction mixture was neutralized with aqueous acetic acid. The precipitate was collected by filtration and recrystallized from water to give 0.51 g of yellow crystals, which were consistent with that of Example 29.

reactant | ethyl 8-chloro-6-fluoro-1-methyl-4-oxo-7-((S)-3-trifluoroacetylamino-1-pyrrolidinyl)-1H,4H-[1,3]-thiazeto[3,2-a]quinoline-3-carboxylate | 1.90 g | ClC=1C(=C(C=C2C(C(=C3N(C12)C(S3)C)C(=O)OCC)=O)F)N3C[C@H](CC3)NC(C(F)(F)F)=O | C20H18ClF4N3O4S
reactant | potassium hydroxide | 1.23 g | [OH-].[K+]
reactant | tert-butanol | 6.0 ml | C(C)(C)(C)O | C4H10O
reactant | water | 12 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-((S)-3-Amino-1-pyrrolidinyl)-8-chloro-6-fluoro-1-methyl-4-oxo-1H,4H-[1,3]thiazeto[3,2-a]quinoline-3-carboxylic acid | 0.51 g | N[C@@H]1CN(CC1)C1=C(C=C2C(C(=C3N(C2=C1Cl)C(S3)C)C(=O)O)=O)F | C16H15ClFN3O3S
